US08207134B2
6) Synthesis of 7-bromo-1-[(4-ethylphenyl)methyl]-6-[(1-methoxy-1-methylethoxy)methyl]-naphthalene
Under a nitrogen stream, to a solution of [3-bromo-5-[(4-ethylphenyl)methyl]-naphthalen-2-yl]-methanol (326.2 mg, 0.92 mmol) and pyridinium p-toluenesulfonate (4.6 mg, 0.02 mmol) in THF (3.0 mL) was added 2-methoxypropene (0.44 mL, 4.6 mmol) under ice-cooling, and the resultant mixture was stirred at the same temperature for 1.5 hours. Saturated aqueous sodium hydrogen carbonate was added thereto. The resultant mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure, to thereby obtain the titled compound (393.2 mg, 100%).

reactant | [3-bromo-5-[(4-ethylphenyl)methyl]-naphthalen-2-yl]-methanol | 0.92 mmol, 326.2 mg | BrC=1C(=CC2=CC=CC(=C2C1)CC1=CC=C(C=C1)CC)CO | C20H19BrO
reactant | 2-methoxypropene | 4.6 mmol, 0.44 mL | COC(=C)C | C4H8O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
catalyst | pyridinium p-toluenesulfonate | 0.02 mmol, 4.6 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
product | 7-bromo-1-[(4-ethylphenyl)methyl]-6-[(1-methoxy-1-methylethoxy)methyl]-naphthalene | 393.2 mg, 100% | BrC1=C(C=C2C=CC=C(C2=C1)CC1=CC=C(C=C1)CC)COC(C)(C)OC | C24H27BrO2
